US07696229B2
4. Synthesis of tert-butyl 4-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)piperazine-1-carboxylate
Into a 150 mL sealed tube was placed 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl formate (1.5 g, 4.97 mmol). To this was added tert-butyl piperazine-1-carboxylate (9.24 g, 49.68 mmol). Addition of p-toluenesulfonic acid (171 mg, 0.99 mmol) was next. To the mixture was added toluene (70 mL). After nitrogen bubbled, the resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at 120° C. in a bath of oil. The mixture was concentrated by evaporation under vacuum using a rotary evaporator. The residue was dissolved in 300 mL of ethyl acetate. The resulting mixture was washed 2 times with 150 mL of brine. The mixture was dried over Na2SO4. The residue was purified by eluting through a column with a 1:2 ethyl acetate/petroleum ether solvent system. This resulted in 420 mg (18%) of tert-butyl 4-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)piperazine-1-carboxylate as a yellow solid.

reactant | 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl formate | 4.97 mmol, 1.5 g | C(=O)OC1=CN(C2=NC=CC=C21)S(=O)(=O)C2=CC=CC=C2 | C14H10N2O4S
reactant | tert-butyl piperazine-1-carboxylate | 49.68 mmol, 9.24 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | p-toluenesulfonic acid | 0.99 mmol, 171 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)piperazine-1-carboxylate | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)N2CCN(CC2)C(=O)OC(C)(C)C | C22H26N4O4S
